US05696276
Preparation of 2-(1-hydroxypentyl)-5,8-dimethoxy-1,4-naphthoquinone
3.6 g (10.3 mmole) of 2-(1-hydroxyhexyl)-1,4,5,8-tetramethoxynaphthalene was dissolved in 50 ml of acetonitrile and then a solution of 14.2 g (25.0 mmole) of cerium (IV) ammonium nitrate dissolved in 50 ml of distilled water was added dropwise thereto over 30 minutes through a dropping funnel in a cooling bath (0°-5° C.). The reaction mixture was stirred at normal temperature for 2 hours. After adding 100 ml of distilled water thereto, the reaction mixture was extracted twice with dichloromethane solvent, dried over anhydrous magnesium sulfate and then filtered through filter paper. The resulting filtrate was concentrated under reduced pressure to obtain a crude product. The crude product was purified by silica gel column chromatography (silica gel 4.0×15 cm) using the solvent condition which increases the amount of ethylacetate so that the n-hexane/ethylacetate ratio can vary from 5:1 to 1:3, to obtain 1.2 g of the title compound as a yellow precipitate.

reactant | 2-(1-hydroxyhexyl)-1,4,5,8-tetramethoxynaphthalene | 10.3 mmole, 3.6 g | OC(CCCCC)C1=C(C2=C(C=CC(=C2C(=C1)OC)OC)OC)OC | C20H28O5
reactant | cerium (IV) ammonium nitrate | 25.0 mmole, 14.2 g | [N+](=O)([O-])[O-].[NH4+].[Ce+4].[N+](=O)([O-])[O-].[N+](=O)([O-])[O-].[N+](=O)([O-])[O-].[N+](=O)([O-])[O-]
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
solvent | water | 50 ml | O | H2O
solvent | water | 100 ml | O | H2O
product | 2-(1-hydroxypentyl)-5,8-dimethoxy-1,4-naphthoquinone | 1.2 g, Yield: 48% | OC(CCCC)C=1C(C2=C(C=CC(=C2C(C1)=O)OC)OC)=O | C17H20O5
